US07214715B2
N1-(4-hydroxybutyl)-N3-{(1S)-2-hydroxy-1-(4-hydroxybenzyl)-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N1-propylisophthalamide (X)
A mixture of N1-{(1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[(3-methoxybenzyl)amino]propyl}-N3-[4-(benzyloxy)butyl]-5-methyl-N3-propylisophthalamide (X, 100 mg, 0.130 mmol) and palladium on carbon (10%, 100 mg) in absolute glacial acetic acid (5 mL) is shaken under an atmosphere of hydrogen at 35 psi for 5 hours. The resulting mixture is filtered through diatomaceous earth and washed with methanol. The combined filtrates are concentrated under reduced pressure. The concentrate is purified by flash column chromatography (silica; gradent of dichloromethane/methanol/ammonium hydroxide 97/3/0.05 to 93/7/0.05) to give the title compound: NMR (300 MHz, CD3OD): δ 7.55–6.64, 4.19, 3.99–3.72, 3.63–3.36, 3.21–3.09, 2.79–2.69, 2.39, 1.90–1.40, 1.29 and 1.02–0.6; ESI-MS (m/z) [M+H]+=592.

reactant | N1-{(1S,2R)-1-[4-(benzyloxy)benzyl]-2-hydroxy-3-[(3-methoxybenzyl)amino]propyl}-N3-[4-(benzyloxy)butyl]-5-methyl-N3-propylisophthalamide | 0.130 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)OC)O)NC(C2=CC(C(=O)N(CCC)CCCCOCC3=CC=CC=C3)=CC(=C2)C)=O)C=C1 | C48H57N3O6
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N1-(4-hydroxybutyl)-N3-{(1S)-2-hydroxy-1-(4-hydroxybenzyl)-3-[(3-methoxybenzyl)amino]propyl}-5-methyl-N1-propylisophthalamide | OCCCCN(C(C1=CC(C(=O)N[C@H](C(CNCC2=CC(=CC=C2)OC)O)CC2=CC=C(C=C2)O)=CC(=C1)C)=O)CCC | C34H45N3O6
